US03933858
Salicylaldehyde diethyl acetal
A mixture of 122 parts of salicylaldehyde, 180 parts of orthoformic acid ethyl ester and 120 parts of anhydrous ethanol was mixed with 1 ml of concentrated hydrochloric acid, whereupon the whole heated up spontaneously. After a short time, the solution was heated to the boil and then evaporated under vacuum, and the residue distilled under a high vacuum. The product passed over at 80°C under 0.15mm Hg pressure.

reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | orthoformic acid ethyl ester | C(C)OC(O)O | C3H8O3
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | Salicylaldehyde diethyl acetal | C(C)OC(C=1C(O)=CC=CC1)OCC | C11H16O3
